US04729994
b. 3-Methoxyphenethyl iodide
To a flask under argon was added 14.6 g (0.0634 mole) 2-(3-methoxyphenyl)ethyl methanesulfonate in 400 ml of acetone and 36.5 g (0.243 mole) of sodium iodide. The reaction mixture was refluxed for 2.5 hr. The acetone was evaporated in vacuo and the residue dissolved in ether. The ether was washed with water, sodium bicarbonate, sodium thiosulfate, water and brine, dried over MgSO4, and evaporated in vacuo to give a light green oil. Distillation in a Kugelrohr apparatus gave 14.6 g of the desired product as a clear oil.

reactant | 2-(3-methoxyphenyl)ethyl methanesulfonate | 0.0634 mole, 14.6 g | CS(=O)(=O)OCCC1=CC(=CC=C1)OC | C10H14O4S
reactant | sodium iodide | 0.243 mole, 36.5 g | [I-].[Na+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 3-Methoxyphenethyl iodide | 14.6 g | COC=1C=C(CCI)C=CC1 | C9H11IO
